US04622217
4-Amino-3-iodobenzylamine
To a solution of (2.44 g, 10 mmol) 4-amino-3-iodobenzonitrile (Helv. Chim. Acta. 54: 1486-1488, 1971, Toth: "Die jodierung von desaktivierten aromatischen aminen in wasseriger phase.") in dry THF (5 ml) was added 30 ml of borane-tetrahydrofuran complex solution (30 mmole) with stirring. The solution was heated at reflux temperature for 1 hr. under argon. Upon cooling, ethanol (2 ml) was added to quench excess borane. After the vigorous reaction subsided, water (30 ml) and ether (40 ml) were added and the mixture was separated. The aqueous layer was again extracted with ether (2×40 ml) and the combined ether extracts were dried. HCl gas was bubbled through the ether solution for 10 min. and the granular white precipitate which resulted was collected and recrystallized from methanol (3.0 g, 94%): mp 185°-195° C. (dec); IR (cm-1) Nujol 3500, 1545, 1595 (amine salt); PMR (DMSO-d6) γ8.5 (br, S, 2H), 7.8 (m, 3H), 7.2 (br, S, 2H), 3.7 (S, 2H). Anal. Calcd. for C7H9NI.2HCl: C, 26.17; H, 3.43; N, 8.72. Found: C, 26.21; H, 3.42; N, 8.75.

reactant | 4-amino-3-iodobenzonitrile | 10 mmol, 2.44 g | NC1=C(C=C(C#N)C=C1)I | C7H5IN2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | water | 30 ml | O | H2O
reactant | ether | 40 ml | CCOCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-Amino-3-iodobenzylamine | NC1=C(C=C(CN)C=C1)I | C7H9IN2
